US05969138
(4) Preparation of 1-(2-(2-propynyloxy)ethyl)piperazine
To an aqueous solution of 11.83 g of 1-(2-(2-propynyloxy)ethyl)piperazine dihydrochloride (water: 10 mL) was added aqueous sodium hydroxide solution, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and evaporated to give 3.09 g of the title compound.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1-(2-(2-propynyloxy)ethyl)piperazine dihydrochloride | 10 mL, 11.83 g | Cl.Cl.C(C#C)OCCN1CCNCC1
product | 1-(2-(2-propynyloxy)ethyl)piperazine | 3.09 g | C(C#C)OCCN1CCNCC1 | C9H16N2O
